US06369078B1
N-Boc-Piperidine-2-Carboxaldehyde
A solution of N-Boc-Piperidine (6.0 g, 32.4 mmol) in ether (65 mL) was cooled to −60° C. and treated with TMEDA (4.9 mL, 32.4 mmol) followed by sec-BuLi (54.8 mL, 71.2 mmol) dropwise. The mixture was slowly warmed to −20° C. and stirred for 10 min and then cooled to −78° C. The mixture was treated with a solution of DMF (3.8 mL, 48.6 mmol) in 6 mL of ether via syringe, stirred for 10 min, and then quenched with 60 mL saturated ammonium chloride solution. The mixture was warmed to room temperature, and the organic layer was separated. The aqueous layer was extracted three times with ether, and the combined extracts were dried over K2CO3. The organic layer was concentrated to give a crude product as an orange oil. Purification by column chomatography on silica gel with hexanes:EtOAc (4: 1) afforded 4.2 g (67%) of the product as a clear oil which was homogeneous by TLC analysis. 1H NMR (300 MHz) δ9.58 (s, 1 H), 4.69-4.51 (br. m, 1 H), 4.12-3.85 (br. m, 1 H), 2.85 (br. s, 1 H), 2.19-2.13 (d, 1 H), 1.72-1.23 (m, 15 H); 13C NMR (75 MHz) 201.4 (s), 80.4 (s), 43.0 (br. s), 28.3 (s), 24.7 (s), 23.6 (s), 20.9 (s) ppm.

reactant | N-Boc-Piperidine | 32.4 mmol, 6.0 g | C(=O)(OC(C)(C)C)N1CCCCC1 | C10H19NO2
reactant | TMEDA | 32.4 mmol, 4.9 mL | CN(C)CCN(C)C | C6H16N2
reactant | sec-BuLi | 71.2 mmol, 54.8 mL | [Li]C(C)CC
reactant | DMF | 48.6 mmol, 3.8 mL | CN(C)C=O | C3H7NO
solvent | ether | 65 mL | CCOCC | C4H10O
solvent | ether | 6 mL | CCOCC | C4H10O
product | N-Boc-Piperidine-2-Carboxaldehyde | 4.2 g, 67% | C(=O)(OC(C)(C)C)N1C(CCCC1)C=O | C11H19NO3
